US07842696B2
DIPEA (133 mg, 0.18 mL, 0.56 mmol) was added drop wise to 4-phenylamino-benzoic acid (preparation as described above) (75 mg, 0.35 mmol) in DMF (4 mL). EDCI (167 mg, 0.87 mmol) and HOBT (56 mg, 0.42 mmol) were added consecutively and, after 10 minutes, 2-amino-1-[4-(2,4-dichloro-benzoyl)-piperazin-1-yl]-ethanone in its TFA salt form (180 mg, 0.42 mmol) was added. The resulting mixture was stirred at room temperature overnight. Cold water was then added, filtered the solid precipitated. The solid was purified by column chromatography (using silica gel of 60-120 mesh and 70% EtOAc in Hexane as eluent) to afford 95 mg (53% yield) of N-{2-[4-(2,4-Dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenylamino-benzamide. LC-MS purity: 96.05%. 1H-NMR (DMSO-D6): δ 8.6 (s, 1H), 8.3 (t, 1H), 7.8 (d, 3H), 7.5 (m, 2H), 7.3 (t, 2H), 7.2 (d, 2H), 7.1 (d, 2H), 6.9 (t, 1H), 4.1 (dd, 2H), 3.6 (m, 4H), 3.5 (m, 2H), 3.2 (m, 2H).

reactant | DIPEA | 0.56 mmol, 0.18 mL, 133 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-phenylamino-benzoic acid | 0.35 mmol, 75 mg | C1(=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C13H11NO2
reactant | EDCI | 0.87 mmol, 167 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.42 mmol, 56 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-amino-1-[4-(2,4-dichloro-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=C(C=C1)Cl)Cl)=O | C13H15Cl2N3O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{2-[4-(2,4-Dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-4-phenylamino-benzamide | 95 mg, 53% yield | ClC1=C(C(=O)N2CCN(CC2)C(CNC(C2=CC=C(C=C2)NC2=CC=CC=C2)=O)=O)C=CC(=C1)Cl | C26H24Cl2N4O3
